** sch_path: /home/bthomas3/Videos/77GHz_phased_array/xschem/blocks/VCO_77G.sch
**.subckt VCO_77G VCC VTUNE GND sub! OUTP OUTN
*.iopin VCC
*.iopin GND
*.iopin OUTP
*.iopin OUTN
*.iopin VTUNE
*.iopin sub|
XQ1 net4 OUTN net3 sub| npn13G2l Nx=1 El=2.5
XQ2 net5 OUTP net3 sub| npn13G2l Nx=1 El=2.5
L1 VCC OUTP 27p
L2 VCC OUTN 27p
CVAR1 OUTP OUTN 15f
CVAR2 net1 net2 12f
ITAIL net3 GND DC 5m
**.ends
.end
